US07511067B2
4-(2-{3-[3-(4-fluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamino}-1-hydroxy-ethyl)-2-hydroxymethyl-phenol
Prepared according to general working method A from 344 mg (1 mmol) of methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate and 262 mg (1 mmol) of 3-[3-(4-fluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamine.

reactant | methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate | 1 mmol, 344 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(C(O)OCC)=O | C19H20O6
reactant | 3-[3-(4-fluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamine | 1 mmol, 262 mg | FC1=CC=C(C=C1)C1=NN(C(=N1)C)CCC(C)(C)N | C14H19FN4
product | 4-(2-{3-[3-(4-fluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamino}-1-hydroxy-ethyl)-2-hydroxymethyl-phenol | FC1=CC=C(C=C1)C1=NN(C(=N1)C)CCC(C)(C)NCC(O)C1=CC(=C(C=C1)O)CO | C23H29FN4O3
